US03950528
3-Amino-1-(3,4-dibromobenzyl)-pyrazol-5-one ##SPC34##
12.2 g of β-amino-β-ethoxyacrylic acid ethyl ester together with 1 g of p-toluenesulphonic acid were dissolved in 200 ml of ethanol. A solution of 21.6 g of 3,4-dibromobenzylhydrazine in 50 ml of ethanol was added dropwise thereto, under nitrogen. After stirring overnight, the solvent was concentrated in vacuo and the compound identified above, which has separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 182°, 11 g (41%).

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 12.2 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dibromobenzylhydrazine | 21.6 g | BrC=1C=C(CNN)C=CC1Br | C7H8Br2N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Amino-1-(3,4-dibromobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)Br)Br | C10H9Br2N3O
